US05624943
Under the conditions of example 5A, 2 g of 3-(3-hydroxy-6-iodo-2-pyridyl)-propionic acid methyl ester is reacted with 0.8 g of 4-pentynoic acid methyl ester, worked up, and the crude product is chromatographed on silica gel with hexane/0-30% ethyl acetate. 1.6 g of 5-[3-hydroxy-2-(2-methoxycarbonylethyl)-6-pyridyl]-4-pentynoic acid methyl ester of melting point 119°-121° C. is obtained.

reactant | 3-(3-hydroxy-6-iodo-2-pyridyl)-propionic acid methyl ester | 2 g | COC(CCC1=NC(=CC=C1O)I)=O | C9H10INO3
reactant | 4-pentynoic acid methyl ester | 0.8 g | COC(CCC#C)=O | C6H8O2
product | 5-[3-hydroxy-2-(2-methoxycarbonylethyl)-6-pyridyl]-4-pentynoic acid methyl ester | 1.6 g | COC(CCC#CC1=CC=C(C(=N1)CCC(=O)OC)O)=O | C15H17NO5
